US07981874B2
Ethyl {3-[4-({[2-({[(1,1-dimethylethyl)oxy]carbonyl}amino)-5-(2-thienyl)phenyl]amino}carbonyl)phenyl]-3-oxopropyl}methylphosphinate (0.7 g, 1.258 mmol) was taken up in THF (6 mL) and sodium borohydride (0.052 g, 1.383 mmol) was added before stirring overnight. Saturated NH4Cl was added and the products extracted into EtOAc (×2). The combined organic extracts were dried over MgSO4 and concentrated in vacuo. Purification of the residue by MPLC followed by HPLC gave 1,1-dimethylethyl [2-({[4-(2-methyl-2-oxido-1,2-oxaphospholan-5-yl)phenyl]carbonyl}amino)-4-(2-thienyl)phenyl]carbamate as a white solid. The title compound was obtained as a ˜1:1 mixture of diastereosiomers.

reactant | Ethyl {3-[4-({[2-({[(1,1-dimethylethyl)oxy]carbonyl}amino)-5-(2-thienyl)phenyl]amino}carbonyl)phenyl]-3-oxopropyl}methylphosphinate | 1.258 mmol, 0.7 g | CC(C)(C)OC(=O)NC1=C(C=C(C=C1)C=1SC=CC1)NC(=O)C1=CC=C(C=C1)C(CCP(OCC)(=O)C)=O | C28H33N2O6PS
reactant | sodium borohydride | 1.383 mmol, 0.052 g | [BH4-].[Na+]
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 6 mL | C1CCOC1 | C4H8O
product | 1,1-dimethylethyl [2-({[4-(2-methyl-2-oxido-1,2-oxaphospholan-5-yl)phenyl]carbonyl}amino)-4-(2-thienyl)phenyl]carbamate | CP1(OC(CC1)C1=CC=C(C=C1)C(=O)NC1=C(C=CC(=C1)C=1SC=CC1)NC(OC(C)(C)C)=O)=O | C26H29N2O5PS
